US20010047014A1
(3R,4R)-4-benzyl-3,4-dihydroxy-piperidine-1-carboxylic acid benzyl ester 11.0 g (32 mmol) was dissolved in 250 ml EtOH and hydrogenated in the presence of 1.1 g Pd/C (10%) under atmospheric pressure of H2 at r.t. After 16 hours the reaction was complete and the catalyst was filtered off and the solvent was removed under reduced pressure to give 6.6 g (32 mmol, 100%) (3R,4R)-4-benzyl-3,4-dihydroxy-piperidine as an oil.

reactant | (3R,4R)-4-benzyl-3,4-dihydroxy-piperidine-1-carboxylic acid benzyl ester | 32 mmol, 11.0 g | C(C1=CC=CC=C1)OC(=O)N1C[C@H]([C@@](CC1)(O)CC1=CC=CC=C1)O | C20H23NO4
solvent | EtOH | 250 ml | CCO | C2H6O
catalyst | Pd/C | 1.1 g | [Pd] | Pd
product | (3R,4R)-4-benzyl-3,4-dihydroxy-piperidine | 32 mmol, 6.6 g, 100% | C(C1=CC=CC=C1)[C@@]1([C@@H](CNCC1)O)O | C12H17NO2
